US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and thiophen-3-ylboronic acid (55.7 mg, 0.44 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 40 mg (39%) of 2-phenyl-3-(thiophen-3-yl)quinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | thiophen-3-ylboronic acid | 0.44 mmol, 55.7 mg, 1.50 equiv | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 2-phenyl-3-(thiophen-3-yl)quinoxaline-6-carboxylic acid | 40 mg, 39% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1C1=CSC=C1)C(=O)O | C19H12N2O2S
